* Isolated Gate Driver FOD3150
* Simplified behavioral model
.subckt FOD3150 ANODE CATHODE VE VO VCC
* Input LED threshold sensing
B_input IN_NET 0 V = (V(ANODE, CATHODE) > 1.2) ? 1.0 : 0.0
* Propagation delay (150ns) via RC filter
R_delay IN_NET IN_DLY 1500
C_delay IN_DLY 0 100p
* Output Totem Pole Buffer
B_out VO_internal VE V = (V(IN_DLY) > 0.5) ? (V(VCC, VE) - 1.5) : 0.0
R_out VO_internal VO 5
.ends FOD3150
