* Trench Field Stop IGBT STGW60H65DFB (650V / 60A)
* Behavioral model for high speed switching
.subckt STGW60H65DFB C G E
* C=Collector, G=Gate, E=Emitter
* Input Capacitance (Cies)
Cge G E 3.5n
* Miller Capacitance (Cres)
Cgc G C 200p
* Body Diode (if co-packaged)
Dbody E C D_IGBT_FWD
* Simplified active region switch
B1 C E I = (V(G,E) > 6.0) ? (V(G,E)-6.0)*20 * (V(C,E)-1.5) : 1e-9
* Series resistance to match Vce(sat)
Rc C C_internal 0.01

.MODEL D_IGBT_FWD D(IS=1e-12 RS=0.015 N=1.0 BV=650)
.ends STGW60H65DFB
