* =========================================================================
* GATE CAPACITANCE CHARGE/DISCHARGE ANALYSIS
* 4kW MPPT Booster: Asymmetric Gate Drive Network
* =========================================================================
* Purpose: Transient analysis of gate voltage RC characteristics (G1/G2).
* Simulation: 500us total, 10ns resolution for high-fidelity RC modeling.
* =========================================================================

.include ../models/STGW60H65DFB.lib
.include ../models/STTH3006D.lib
.include ../models/FOD3150.sub
.include ../models/UC3843_Behavioral.sub

.PARAM V_IN = 250.0
.PARAM R_LOAD = 40.0

* POWER STAGE (Same as master design)
V_PV IN_NODE 0 DC {V_IN}
C_IN IN_NODE 0 470u 
L1 IN_NODE L1_MID 200u
R_L1 L1_MID BOOST_NODE 0.05

* Parallel IGBTs
XQ1 BOOST_NODE G1 EMITTER STGW60H65DFB
XQ2 BOOST_NODE G2 EMITTER STGW60H65DFB
R_SHUNT EMITTER 0 0.01

* Asymmetric Gate Drive Network
* Turn-ON:  15 Ohm path (di/dt limitation and reverse recovery control)
* Turn-OFF: 5.6 Ohm + 1N4148 diode path (Miller effect suppression)
R1_ON  DRV G1    15
D1_OFF DRV G1_D  D1N4148
R1_OFF G1  G1_D  5.6

R2_ON  DRV G2    15
D2_OFF DRV G2_D  D1N4148
R2_OFF G2  G2_D  5.6

.MODEL D1N4148 D(Is=2.682n tt=10n)

* Parasitic Modeling / Solver Convergence
C_STAB1 G1 0 1n
C_STAB2 G2 0 1n

* Output Stage
D1 BOOST_NODE V_OUT STTH3006D
C_OUT V_OUT 0 880u IC=250
R_LOAD_VAL V_OUT 0 {R_LOAD}

* UC3843 CONTROL
V_VCC AUX_VCC 0 DC 15V
X1 CP FB EMITTER OSC 0 PWM_SIG AUX_VCC V_REF UC3843

R_F1 V_OUT FB 150k
R_F2 FB 0 1k

X_FOD PWM_SIG 0 0 DRV AUX_VCC FOD3150

* =========================================================================
* HIGH-RESOLUTION TRANSIENT ANALYSIS
* tran [output_step] [stop_time] [start_time] [max_internal_step]
* =========================================================================
.control
  option reltol=0.02 abstol=1n vntol=1m 
  tran 10n 500u 0 1n uic
  wrdata gate_analysis_results.txt v(G1) v(G2) v(DRV) v(PWM_SIG) v(EMITTER)
  quit
.endc
.end
